US07179823B1
A mixture of [1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxy]-1H-pyrazol-4-yl]methanol (27.02 g), activated manganese dioxide (52.29 g), chloroform (50 ml), and tetrahydrofuran (300 ml) was stirred at room temperature for 3 hours. After the manganese dioxide was removed by filtration, the filtrate was concentrated. The crystals obtained were collected by filtration to yield 1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxy]-1H-pyrazole-4-carbaldehyde (25.69 g, yield: 95%). This was recrystallized from tetrahydrofuran-hexane. Melting point: 155–156° C.

reactant | [1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxy]-1H-pyrazol-4-yl]methanol | 27.02 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CN2N=C(C(=C2)CO)OCC2=CC=C(C=C2)OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C40H36N4O6
reactant | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 52.29 g | [O-2].[O-2].[Mn+4]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxy]-1H-pyrazole-4-carbaldehyde | 25.69 g, yield: 95% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CN2N=C(C(=C2)C=O)OCC2=CC=C(C=C2)OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C40H34N4O6
